US08026257B2
(R)-5-Chloro-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-3-methyl-1H-indazole.
Prepared according to the procedure used to prepare (R)-3,5-dibromo-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole using (R)-5-chloro-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-3-methyl-1H-indazole as starting material. 1H-NMR (CDCl3, 500 MHz) δ 9.82 (bs, 1H), 7.46 (d, J=1.5 Hz, 1H), 7.23 (dd, J=8.9, 5.5 Hz, 2H), 7.00 (dd, J=8.9, 8.5 Hz, 2H), 6.92 (d, J=1.8 Hz, 1H), 4.43 (q, J=6.4 Hz, 1H), 3.33 (d, J=8.9, 8.5 Hz, 2H), 6.92 (d, J=1.8 Hz, 1H), 4.43 (q, J=6.4 Hz, 1H), 3.33 (d, J=8.9 Hz, 1H), 3.24 (d, J =9.2 Hz, 1H), 2.40-2.65 (m, 5H), 1.85-2.30 (m, 9H), 1.38 (d, J=6.4 Hz, 3H); 13C NMR (126 MHz, CDCl3) δ ppm 161.5 (d, J=246 Hz), 142.3, 136.7, 128.7 (d, J=7.7 Hz), 127.6, 125.3, 124.4, 124.0, 118.5, 115.3 (d, J=21 Hz), 78.7 (br), 78.1, 51.9, 51.8, 46.2, 40.4, 32.6, 32.4, 22.0, 11.9.

reactant | (R)-3,5-dibromo-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole | BrC1=NNC2=C(C=C(C=C12)Br)[C@@H](C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C22H24Br2FN3O
reactant | (R)-5-chloro-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-3-methyl-1H-indazole | ClC=1C=C2C(=NNC2=C(C1)[C@@H](C)OCC1(CCNCC1)C1=CC=C(C=C1)F)C | C22H25ClFN3O
product | (R)-5-Chloro-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-3-methyl-1H-indazole | ClC=1C=C2C(=NNC2=C(C1)[C@@H](C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F)C | C23H27ClFN3O
